US04061656
2,4-dimethyl-3-hydroxymethyl-5-iodothiophene
10.0 G. (46 mmol) of mercuric oxide and 14.7 g. (58 mmol) of iodine were added alternately over a period of 1 1/4 hrs. to a vigorously stirred solution of 8.2 g. (57.7 mmol) of 2,4-dimethyl-3-hydroxymethylthiophene in 300 ml. of benzene. The reaction mixture was kept at room temperature by cooling with an ice bath and stirring was continued for an additional hour. The mercuric iodide which precipitated was filtered and washed well with warm ethyl ether. The combined organic solutions were washed with 10% sodium thiosulfate and saturated sodium chloride solution, dried and evaporated. The resulting residue was dissolved in a minimum amount of hot ether, an equal amount of hexane was added and the solution cooled to -50° C. The crystals which precipitated were filtered and washed with cold hexane to yield after drying 2,4-dimethyl-3-hydroxymethyl-5-iodothiophene, m.p. 118.5°-120.5° C.

reactant | iodine | 58 mmol | II | I2
reactant | 2,4-dimethyl-3-hydroxymethylthiophene | 57.7 mmol | CC=1SC=C(C1CO)C | C7H10OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,4-dimethyl-3-hydroxymethyl-5-iodothiophene | CC=1SC(=C(C1CO)C)I | C7H9IOS
